US04769386
A mixture of 1,4-dimethyl-5-hydroxymethyl-2-(4-methoxybenzylthio)imidazole (1 g, 4 mmoles) and manganese dioxide (1.3 g, 15 mmoles) in methylene chloride (50 ml) was stirred at 25° C. for 16 hours. The mixture was filtered and the filtrate concentrated in vacuo to give 1,4-dimethyl-5-formyl-2-(4-methoxybenzylthio)imidazole.

reactant | 1,4-dimethyl-5-hydroxymethyl-2-(4-methoxybenzylthio)imidazole | 4 mmoles, 1 g | CN1C(=NC(=C1CO)C)SCC1=CC=C(C=C1)OC | C14H18N2O2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 15 mmoles, 1.3 g | [O-2].[O-2].[Mn+4]
product | 1,4-dimethyl-5-formyl-2-(4-methoxybenzylthio)imidazole | CN1C(=NC(=C1C=O)C)SCC1=CC=C(C=C1)OC | C14H16N2O2S
